US05180723
Benzylamine (3.1 ml, 28 mmol) was added to a stirred mixture of 2-methyloctan-4-one (4.0 g, 28 mmol) and 3 Å molecular sieves in dry methanol (40 ml) under argon. The mixture was stirred at room temperature overnight. Sodium cyanoborohydride (1.77 g, 28 mmol) was added and the mixture stirred overnight. Stirring was stopped and the solution was decanted, from the molecular sieves, into saturated aqueous ammonium chloride. The mixture was filtered, concentrated, ethyl acetate added and the mixtures washed with water. The organics were dried over anhydrous magnesium sulphate, filtered and concentrated to give a yellow oil. Chromatography (silica: 1% triethylamine and 10% ethylacetate in hexane) gave N-benzyl-2-methyl-4-aminooctane (3.0 g, 46%) as a yellow oil.

reactant | Benzylamine | 28 mmol, 3.1 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-methyloctan-4-one | 28 mmol, 4.0 g | CC(C)CC(CCCC)=O | C9H18O
reactant | Sodium cyanoborohydride | 28 mmol, 1.77 g | C(#N)[BH3-].[Na+]
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | N-benzyl-2-methyl-4-aminooctane | 3.0 g, 46% | C(C1=CC=CC=C1)NC(CC(C)C)CCCC | C16H27N
